US08222246B2
[6-(3-Butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-(1,1-dioxo-thiomorpholin-4-yl)-methanone
As described in example 52g, 6-[3-butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (45 mg, 0.15 mmol) was converted, using thiomorpholine-1,1-dioxide instead of cyclobutylamine, to the title compound (39 mg, 63%) which was obtained as a light yellow oil. MS: m/e=424.2 [M+H]+.

reactant | 6-[3-butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.15 mmol, 45 mg | C(CCC)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C15H18N2O5
reactant | thiomorpholine-1,1-dioxide | N1CCS(CC1)(=O)=O | C4H9NO2S
product | [6-(3-Butyl-5-hydroxymethyl-isoxazol-4-ylmethoxy)-pyridin-3-yl]-(1,1-dioxo-thiomorpholin-4-yl)-methanone | 39 mg, 63% | C(CCC)C1=NOC(=C1COC1=CC=C(C=N1)C(=O)N1CCS(CC1)(=O)=O)CO | C19H25N3O6S
